US07754882B2
Trans-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline
1-[2-(4-Bromo-phenyl)-2-(3-methoxy-phenyl)-ethyl]-pyrrolidine-2,5-dione. A solution of the crude product from Step 7 (54.9 mmol) in EtOAc (55 mL) was treated with acetyl chloride (14.0 mL) and then was heated at reflux overnight. The mixture was cooled, and a precipitate formed. The solid was filtered to provide 15.9 g (75%) of the desired product. The filtrate was purified by chromatography (EtOAc/hexanes) to give an additional 3.28 g, for a combined yield of 19.2 g (90%). MS: exact mass calcd for C19H18BrNO3, 387.1; m/z found, 410.0 [M+Na]+, 412.0 [M+Na]+. 1H NMR (CDCl3): 7.38 (m, 2H), 7.19 (m, 3H), 6.81 (d, J=7.6, 1H), 6.73 (m, 2H), 4.60 (t, J=8.4, 1H), 4.06 (m, 2H), 3.74 (s, 3H), 2.51 (s, 4H).

reactant | 1-[2-(4-Bromo-phenyl)-2-(3-methoxy-phenyl)-ethyl]-pyrrolidine-2,5-dione | BrC1=CC=C(C=C1)C(CN1C(CCC1=O)=O)C1=CC(=CC=C1)OC | C19H18BrNO3
reactant | acetyl chloride | 14.0 mL | C(C)(=O)Cl | C2H3ClO
reactant | EtOAc | 55 mL | CCOC(=O)C | C4H8O2
product | Trans-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline | 15.9 g, 75% | BrC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=C(C=C13)OCCCN1CCCCC1)CCC2 | C26H33BrN2O
